US07919504B2
5-(3-Fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-amine.
1-(3-Fluoro-4-nitrobenzoyl)thiosemicarbazide (6.6 g, 26 mmol) was dissolved in 30 mL concentrated sulfuric acid and stirred at room temperature for 3 hours. The reaction mixture was poured into a mixture of 40 mL 33% aqueous ammonia and 200 mL ice with stirring. The resulting solution was adjusted to pH 8 with an additional amount of the ammonia solution. An orange solid formed during the process. The product was obtained as a yellow solid after filtering, washing with water, and drying in a vacuum for 24 hours at 50° C. LCMS (API-ES) m/z (%): 241.1 (100%, M++H); 1H NMR (400 MHz, DMSO-d6) δ ppm 7.80 (bs, 3H) 7.93 (d, J=12.32 Hz, 1H) 8.22 (t, J=8.12 Hz, 1H).

reactant | 1-(3-Fluoro-4-nitrobenzoyl)thiosemicarbazide | 26 mmol, 6.6 g | FC=1C=C(C(=O)NNC(=S)N)C=CC1[N+](=O)[O-] | C8H7FN4O3S
reactant | ammonia | 40 mL | N | H3N
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 5-(3-Fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-amine | FC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(S1)N | C8H5FN4O2S
